US07846956B2
18.64 g of [5-(t-butyldimethylsilanyloxymethyl)isoxazol-3-yl]methanol was dissolved in 80 ml of pyridine, and 16.06 g of 4-toluenesulfonyl chloride was then added under ice-cooling. The mixture was stirred for 10 hours under ice-cooling. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 4.48 g of 5-(t-butyldimethylsilanyloxymethyl)-3-(chloromethyl)isoxazole.

reactant | [5-(t-butyldimethylsilanyloxymethyl)isoxazol-3-yl]methanol | 18.64 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NO1)CO | C11H21NO3Si
reactant | 4-toluenesulfonyl chloride | 16.06 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 5-(t-butyldimethylsilanyloxymethyl)-3-(chloromethyl)isoxazole | 4.48 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NO1)CCl | C11H20ClNO2Si
